US04725610
A mixture of cyclohexanethiocarboxamide (5.0 g), ethyl 4-chloroacetoacetate (5.74 g), ethanol (50 ml) was heated under reflux for 1 hour. After dilution with water, mixture was extracted with ethyl acetate. The extract was washed with aqueous sodium bicarbonate solution and water, dried (MgSO4), and concentrated. The residue was purified by chromatography on silica gel with ethyl acetate-hexane (1:4) to yield ethyl 2-cyclohexyl-4-thiazoleacetate as an oil (6.3 g, 70.9%). IR (Neat): 1735, 1255 cm-1. NMR (CDCl3)δ: 1.28 (3H, t, J=7 Hz), 1.2-2.3 (10H, m), 2.97 (1H, m), 3.77 (2H, s), 4.17 (2H, q, J=7 Hz), 7.0 (1H, s).

reactant | cyclohexanethiocarboxamide | 5.0 g | C1(CCCCC1)C(N)=S | C7H13NS
reactant | ethyl 4-chloroacetoacetate | 5.74 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-cyclohexyl-4-thiazoleacetate | 6.3 g, 70.9% | C1(CCCCC1)C=1SC=C(N1)CC(=O)OCC | C13H19NO2S
